US07495103B2
To a mixture of 4-tert-butyl-phenylamine (10.0 g, 67.01 mmol) dissolved in H2SO4 (98%, 60 mL) was slowly added KNO3 (8.1 g, 80.41 mmol) at 0° C. After addition, the reaction was allowed to warm to room temperature and stirred overnight. The mixture was then poured into ice-water and basified with sat. NaHCO3 solution to pH 8. The mixture was extracted several times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography (petroleum ether—EtOAc, 10:1) to give 4-tert-butyl-3-nitro-phenylamine (10 g, 77%).

reactant | 4-tert-butyl-phenylamine | 67.01 mmol, 10.0 g | C(C)(C)(C)C1=CC=C(C=C1)N | C10H15N
reactant | KNO3 | 80.41 mmol, 8.1 g | [N+](=O)([O-])[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 4-tert-butyl-3-nitro-phenylamine | 10 g, 77% | C(C)(C)(C)C1=C(C=C(C=C1)N)[N+](=O)[O-] | C10H14N2O2
